US07871982B2
5-(2-Nitrophenyl)-1,3,4-thiadiazole-2-thiol
Carbon bisulfide (4 ml) was added to a solution of 1.81 g (10 mmol) of 2-nitrobenzohydrazide in 8 ml of methanol. A solution of 616 mg (11 mmol) of potassium hydroxide in methanol (10 ml) was added thereto, and the mixture was stirred at room temperature for 6 hr. The precipitated crystal was collected by filtration and was dried. The dried crystal was added dropwise to 5 ml of concentrated sulfuric acid, and the mixture was stirred at room temperature for 3 hr. The reaction solution was added dropwise to 100 ml of ice water, and the resultant precipitate was collected by filtration and was dried to give 1.21 g (51%) of the title compound.

reactant | Carbon bisulfide | 4 ml | [SH-].[C+4].[SH-].[SH-].[SH-]
reactant | 2-nitrobenzohydrazide | 10 mmol, 1.81 g | [N+](=O)([O-])C1=C(C(=O)NN)C=CC=C1 | C7H7N3O3
reactant | potassium hydroxide | 11 mmol, 616 mg | [OH-].[K+]
solvent | methanol | 8 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 5-(2-Nitrophenyl)-1,3,4-thiadiazole-2-thiol | 1.21 g, 51% | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(S1)S | C8H5N3O2S2
